Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
- Vaginal bleeding 
- Dizziness 
 
Major Surgical or Invasive Procedure:
CERVIX, CONE EXCISION/LEEP/LOOP/LLETZ

 
History of Present Illness:
___ is a ___-speaking female with PMHx 
of latent TB, H. pylori, cardiomegaly, ectatic aorta and 
osteoporosis who presents with 2 months of intermittent 
dizziness and more recently 3 episodes of vaginal bleeding, 
found to have cervical mass s/p biopsy now admitted for further 
workup of dizziness and junctional tachycardia noted in the ED.

Patient reporting vaginal bleeding over the last 2 months. First 
episode of bleeding was noted when using the toilet on the plan 
from ___ to ___ 1 month ago. She noted to have some blood 
in the toilet. Second episode of bleeding was 2 weeks ago while 
at home and had one episode of blood seen in the toilet only. 
Third episode of bleeding started yesterday morning when she 
noticed upon awakening and using toilet. This episode is 
continued since yesterday and is feeling a pad every several 
hours. Denies any abdominal pain, dysuria, urgency, frequency 
denies any back pain or flank pain and no recent fevers. 
Transvaginal ultrasound was not able to be performed as the 
probe could not be inserted. Transabdominal ultrasound shows a 
large 3.1 x 4.6 x 3.9 cm mass in the cervix. There is a complex 
cyst 6.5 x 3.5 x 5.8 cm in the right ovary. Uterus cannot be 
evaluated as there is a large mass in the lower uterine segment. 
It is multilobulated with intrinsic vascularity. Left ovary 
could not be seen. There is no free fluid. There is no 
hydronephrosis.

Patient is also reporting occasional dizziness that can occur 
either at rest or on exertion which will last for a few seconds
for the last 6 months. Previously was not occurring daily, but 
over the last ___ days has been happening multiple times. Feels 
the dizziness may be correlated with times of increased vaginal 
bleeding. Patient reports that a feeling comes over her and 
feels like it's rising in her throat, then her dizziness comes 
on. She denies loss of consciousness with these episodes. 

On arrival to the ED: Initial vitals notable for: 97 79 151/79 
16 93% RA. Labs notable for initial Hb 10.7, repeat Hb 11.8. CEA 
6.2, CA-125 33 and CA ___ pending. 

Imaging notable for: 
CT A/P: 1. No evidence of pulmonary embolism or acute aortic
abnormality.
2. 2 mm left upper lobe pulmonary nodule.
3. Large heterogeneously enhancing irregular cervical mass
concerning for
malignancy. No obvious evidence of invasion into the adjacent
solid organs.
4. Bilateral pelvic sidewall lymphadenopathy concerning for
metastases.

EKG from ___ on ___ consistent with Junctional tachycardia. 

Patient's daughter reported an episode of SVT at OSH prior to 
transfer. While in the ED patient had episode of possible SVT 
with HRs 130s on ___ at 133. 

She was also seen by OB/GYN and GYN ONC services for 4.6 cm 
cervical mass and 6.5 cm complex R ovarian cyst on TVUS. 
Cervical mass suggestive of stage II B cervical cancer. Patient 
underwent cervical biopsy with pathology pending. Recommended 
pad count, and PET scan in house if possible. 

Upon arrival on the floor, patient denies any active vaginal 
bleeding. History obtained with ___ phone interpreter, 
patient is very confused and is not able to provide complete 
history. She is very inattentive and unable to count backwards 
from 10. She is oriented to person and hospital but not date. 
She reports some intermittent dizziness, but denies CP, SOB, abd 
pain. She recommends we obtain additional history from her 
daughter.  
 
Past Medical History:
- Shingles
- Latent TB 
- H. Pylori 
- Cardiomegaly 
- Hypertension 
- Pre-Diabetes  
 
Social History:
___
Family History:
- Daughter w uterine cancer at ___ (deceased)
- Denies family history of Breast ca, ovarian Ca, or Colon Ca
- Denies family history of bleeding/clotting disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
Vitals: 98.4 PO 137 / 77 79 18 93 RA 
General: no acute distress, alert to person and hospital not to 
date. 
Cardiac: regular rate and rhythm, without m/r/g
Pulmonary: CTAB, no crackles/wheezes/rhonchi 
Abdominal: soft, non-tender non-distended 
Neuro: alert, oriented to place, but not date 
Pelvic exam deferred. 
Ext: No lower extremity edema 

DISCHARGE PHYSICAL EXAM:
======================
Vitals: ___ 0740 Temp: 97.6 PO BP: 113/60 R Lying HR: 72 
RR:
19 O2 sat: 90% O2 delivery: Ra 
General: laying comfortably in bed, no acute distress
Cardiac: regular rate and rhythm, without m/r/g
Pulmonary: CTAB, no crackles/wheezes/rhonchi 
Abdominal: soft, non-tender non-distended 
Neuro: alert, ambulating independently, moving all limbs in bed. 

Pelvic exam deferred. 
Ext: No lower extremity edema, no rashes 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 05:24PM BLOOD WBC-6.2 RBC-3.98 Hgb-10.7* Hct-33.2* 
MCV-83 MCH-26.9 MCHC-32.2 RDW-14.8 RDWSD-45.3 Plt ___
___ 05:24PM BLOOD Neuts-59.8 ___ Monos-8.1 Eos-3.7 
Baso-0.8 Im ___ AbsNeut-3.71 AbsLymp-1.70 AbsMono-0.50 
AbsEos-0.23 AbsBaso-0.05
___ 05:24PM BLOOD ___ PTT-28.1 ___
___ 05:24PM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-142 
K-4.3 Cl-103 HCO3-26 AnGap-13
___ 05:24PM BLOOD Calcium-9.5 Phos-3.9 Mg-1.8
___ 05:24PM BLOOD CEA-6.2* CA125-33
___ 03:06PM URINE Color-Straw Appear-Clear Sp ___
___ 03:06PM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 03:06PM URINE RBC-3* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 3:06 pm URINE
 **FINAL REPORT ___
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

DISCHARGE LABS:
==============

___ 07:45AM BLOOD WBC-4.3 RBC-4.01 Hgb-10.8* Hct-32.7* 
MCV-82 MCH-26.9 MCHC-33.0 RDW-14.7 RDWSD-43.5 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-94 UreaN-21* Creat-1.0 Na-141 
K-4.4 Cl-99 HCO3-24 AnGap-18
___ 07:45AM BLOOD Calcium-9.2 Phos-4.9* Mg-2.1
___ 05:24PM BLOOD CA ___    (Reference Range: <34 U/mL) 
       

Pathology ReportTissue: CERVIX, CONE EXCISION/LEEP/LOOP/LLETZ
Procedure Date of ___
Report not finalized.
Assigned Pathologist ___, MD
___ in only.
PATHOLOGY # ___
CERVIX, CONE EXCISION/LEEP/LOOP/LLETZ
(___)

IMAGING:
=======
___ CTA CHEST AND CT ABDOME
IMPRESSION:
1. No evidence of pulmonary embolism or acute aortic 
abnormality.
2. 2 mm left upper lobe pulmonary nodule.
3. Large heterogeneously enhancing irregular cervical mass 
concerning for
malignancy.  No obvious evidence of invasion into the adjacent 
solid organs.
4. Bilateral pelvic sidewall lymphadenopathy concerning for 
metastases.
 
Brief Hospital Course:
BRIEF SUMMARY: 
=============
___ is a ___-speaking female with PMHx 
of latent TB, H. pylori, cardiomegaly, ectatic aorta and 
osteoporosis who presented with 2 months of intermittent 
dizziness and more recently 3 episodes of vaginal bleeding, 
found to have cervical mass s/p biopsy, admitted for monitoring 
after reporting dizziness and episode of junctional tachycardia 
noted in the ED.

ACUTE ISSUES ADDRESSED: 
=====================
#Cervical mass
#Vaginal bleeding 
Transvaginal ultrasound performed on ___ showed a 3.1 x 4.6 x 
3.9 cm mass in LUS. Patient reported no active bleeding while on 
the floor and remained hemodynamically stable. Cervical biopsy 
pathology was pending at time of discharge. OB/GYN recommended 
outpatient work-up for her cervical mass. PET scan was deferred 
for outpatient. Discharge Hb 10.8. Please follow up CBC at PCP 
appointment on ___. 

#Dizziness:
History obtained with help of daughter, confirmed that dizziness 
has been going on for the last 6 months and increased in 
frequency for the last ___ days prior to admission. Per 
daughter, timing of dizziness seems to correlate with increased 
vaginal bleeding. Patient also noted to have a brief episode of 
junctional tachycardia with rates in the 130s in the ED which 
resolved without intervention, which may be associated with 
dizziness. Orthostatic vital signs monitored and were 
unremarkable. 

#Intermittent junctional tachycardia: 
Patient was noted to have episode of tachycardia in the ED with 
HRs in 130s. EKG capturing event demonstrating juctional 
tachycardia. She received IV fluids with conversion of HR back 
to ___. Subsequent EKG with normal sinus rhythm. It was unclear 
if episode is related to vaginal bleeding which has stabilized. 
She was monitored on telemetry during her hospital course 
without additional events. Can consider outpatient holter 
monitor to for additional cardiac events if patient has ongoing 
dizziness. 

#Complex R ovarian cyst 
Noted on ___ transvaginal US, measuring 6.5 x 3.5 x 5.8 cm. 
CEA: 6.2, CA-125 33, CA ___ pending. She is to continue work up 
as outpatient.

#Concern for underlying dementia
Patient oriented to hospital only and is unable to account 
recent events and answer basic questions related to medical and 
social history with interpreter present. Patient may have 
underlying dementia, but appears to have significant supports 
and lives with daughter. 

CHRONIC ISSUES ADDRESSED:
=======================
___ use disorder
Patient reportedly smokes ___ daily. She was ordered for a 
nicotine patch while inpatient. 

#GERD: 
Patient was continued on home Ranitidine 

#Latent TB: 
History of Latent TB per CHA records on ___ had positive quant 
gold, chest imaging without active TB.

#Ectatic aorta: 
Patient carries diagnosis of ectatic aortia per CHA records. CTA 
chest from ___ without evidence of aortic enlargement. 

#Osteoporosis
Continued on Vitamin D supplementation

# CODE: Full confirmed
# CONTACT: ___- ___

TRANSITIONAL ISSUES: 
==================
[ ] Please follow up CBC at ___ appointment on ___. 
[ ] Can consider outpatient holter monitor to for any additional 
events if patient has ongoing dizziness. 
[ ] Ensure patient gets outpatient PET scan and follows up with 
Gyn Onc for further management of cervical mass and R ovarian 
cyst. 
[ ] Please continue ___ cessation counseling. 
[ ] Please follow up CA ___ pending.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 75 mg PO BID 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ranitidine 75 mg PO BID  
2.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
================
- vaginal bleeding
- dizziness
- sinus tachycardia 

SECONDARY DIAGNOSIS: 
===================
- cervical mass
- complex right ovarian cyst 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
======================  
- You came to the hospital because you were having vaginal 
bleeding and dizziness 

WHAT HAPPENED TO ME IN THE HOSPITAL?
=================================  
- You underwent an ultrasound and CT scan to evaluate the cause 
of your bleeding
- You had a biopsy of your cervix to evaluate the cause of your 
bleeding  
- You were closely monitored to ensure your heart rates were 
stable
- You were monitored to ensure that you did not have worsening 
of your dizziness 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
=======================================
- We recommend you keep your doctor appointments 

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___